US04401601
9.15 ml of a cyclohexane solution of 1.75M of butyllithium were added with stirring under an inert atmosphere at -30° to -40° C. to a mixture of 2.49 ml of diisopropylamine and 5 ml of tetrahydrofuran and after 10 minutes of contact, the mixture was cooled to -60° to -70° C. A mixture of 4.068 g of 4-tolyl sulfonyl-4,3,3-trimethyl-pentanenitrile in 15 ml of tetrahydrofuran were added to the mixture over 5 minutes and the mixture was stirred at -60° to -70° C. for 10 minutes after which the temperature was allowed to rise to 20° to 25° C. The mixture was stirred for one hour and was then poured into an iced aqueous saturated monosodium phosphate solution. The mixture was extracted with n-pentane and the organic phase was dried and evaporated to dryness under reduced pressure. The residue was distilled under reduced pressure to obtain 1.064 g of pure 2,2,3,3-tetramethyl-cyclopropane-carbonitrile with a boiling point of 58°-60° C. at 12-14 mm Hg and a melting point of 17° C.

reactant | butyllithium | 1.75M | C(CCC)[Li]
reactant | diisopropylamine | 2.49 ml | C(C)(C)NC(C)C | C6H15N
reactant | 4-tolyl sulfonyl-4,3,3-trimethyl-pentanenitrile | 4.068 g | C1(=CC=C(C=C1)S(=O)(=O)C(C#N)C(C(C)C)(C)C)C | C15H21NO2S
reactant | monosodium phosphate | P(=O)([O-])(O)O.[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | cyclohexane | 9.15 ml | C1CCCCC1 | C6H12
product | 2,2,3,3-tetramethyl-cyclopropane-carbonitrile | 1.064 g | CC1(C(C1(C)C)C#N)C | C8H13N
